US20010012846A1
(S)-N-(α-Ethylbenzyl)-3-[(S)-2-(methoxycarbonyl)pyrrolidin-1-yl]-2-phenylquinoline-4-carboxamide Hydrochloride
1.0 g (2.56 mmol) of 3-[(S)-2-(Methoxycarbonyl)pyrrolidin-1-yl]-2-phenylquinoline-4-carboxylic acid were dissolved, under nitrogen atmosphere, in 30 ml of a 80:20 mixture of THF/CH3CN. The solution was cooled at 0° C. and 0.38 g (2.81 mmol) of HOBT, 0.36 g (3.58 mmol) of TEA and 0.42 g (mmol 3.06) of (S)-α-ethylbenzylamine were added. The solution was stirred 5 minutes and 0.58 g (2.81 mmol) of DCC, dissolved in 18 ml of CH2Cl2, were added dropwise. The mixture was stirred 2 hours at 0° C., then the temperature was allowed to raise to room temperature and the reaction was maintained under stirring for 3 hours. The precipitated dicyclohexylurea was filtered off and the filtrate was evaporated in vacuo to dryness. The residue was dissolved in CH2Cl2 and washed with 1N NaOH. The organic layer was dried over Na2SO4 and evaporated in vacuo to dryness. The crude product was purified by gradient column chromatography on 70-230 mesh silica gel using a mixture of hexane/EtOAc 90:10 as starting eluent and a mixture of hexane/EtOAc 70/30 containing 1% NH4OH (28%) as final eluent. The product obtained was dissolved in Et2O and acidified with HCl/Et2O; the precipitate so formed was recovered by suction filtration affording 0.29 g of the title compound.

reactant | 3-[(S)-2-(Methoxycarbonyl)pyrrolidin-1-yl]-2-phenylquinoline-4-carboxylic acid | 2.56 mmol, 1.0 g | COC(=O)[C@H]1N(CCC1)C=1C(=NC2=CC=CC=C2C1C(=O)O)C1=CC=CC=C1 | C22H20N2O4
reactant | HOBT | 2.81 mmol, 0.38 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | (S)-α-ethylbenzylamine | 0.42 g | C(C)[C@@H](C1=CC=CC=C1)N | C9H13N
reactant | DCC | 2.81 mmol, 0.58 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
reactant | HCl Et2O | Cl.CCOCC
solvent | THF CH3CN | C1CCOC1.CC#N
solvent | CH2Cl2 | 18 ml | C(Cl)Cl | CH2Cl2
solvent | Et2O | CCOCC | C4H10O
product | (S)-N-(α-Ethylbenzyl)-3-[(S)-2-(methoxycarbonyl)pyrrolidin-1-yl]-2-phenylquinoline-4-carboxamide Hydrochloride | 0.29 g | Cl.C(C)[C@@H](C1=CC=CC=C1)NC(=O)C1=C(C(=NC2=CC=CC=C12)C1=CC=CC=C1)N1[C@@H](CCC1)C(=O)OC | InChI=1S/C31H31N3O3.ClH/c1-3-24(21-13-6-4-7-14-21)33-30(35)27-23-17-10-11-18-25(23)32-28(22-15-8-5-9-16-22)29(27)34-20-12-19-26(34)31(36)37-2;/h4-11,13-18,24,26H,3,12,19-20H2,1-2H3,(H,33,35);1H/t24-,26-;/m0./s1
